US05382572
Following the procedure set forth in Step (2) of Preparation A, isatoic anhydride was reacted with benzyl bromide to give 1-benzyl-isatoic anhydride.

reactant | isatoic anhydride | C1=2C(=O)OC(NC1=CC=CC2)=O | C8H5NO3
reactant | benzyl bromide | C(C1=CC=CC=C1)Br | C7H7Br
product | 1-benzyl-isatoic anhydride | C(C1=CC=CC=C1)C12C(=O)OC(NC1C=CC=C2)=O | C15H13NO3
